US07994315B2
A mixture of (2S)-2-(4-fluorophenyl)oxirane (8.28 g) and benzylamine (19.3 g, 180 mmol) was heated at 80° C. for 4 hrs. The reaction mixture was poured into water and extracted with ethyl acetate. The combined organic layer was washed with brine and dried over anhydrous sodium sulfate. After removal of the solvent, the precipitate was collected by filtration and washed with hexane to give (1S)-1-(4-fluorophenyl)-2-(benzylamino)ethanol (8.3 g) as white crystals (yield 57% for 3 steps).

reactant | (2S)-2-(4-fluorophenyl)oxirane | 8.28 g | FC1=CC=C(C=C1)[C@@H]1OC1 | C8H7FO
reactant | benzylamine | 180 mmol, 19.3 g | C(C1=CC=CC=C1)N | C7H9N
solvent | water | O | H2O
product | (1S)-1-(4-fluorophenyl)-2-(benzylamino)ethanol | 8.3 g, yield 57% | FC1=CC=C(C=C1)[C@@H](CNCC1=CC=CC=C1)O | C15H16FNO
